US05491144
4-Anilino-5-(4-hydroxy-anilino)-phthalimide
To a solution of 359.4 mg (1 mmol) of 4-anilino-5-(4-methoxy-anilino)-phthalimide in 5 ml of chloroform, a solution of 186 μl (2 mmol) boron tribromide is added dropwise at -40° C. to -30° C. The reaction mixture is stirred for 5 hours at -30° C., and is then quenched with 5 ml of water. The reaction mixture is warmed up to room temperature, and the phases are separated. The organic phase is washed twice with water, dried over magnesium sulfate and concentrated by evaporation. Excluding light, the evaporation residue is chromatographed with ethylacetate/hexane 1:1 on a silica gel column that is cooled with ice-water (double jacket), the product fractions are combined and concentrated by evaporation. The title compound is obtained in the form of yellow crystals, FAB-MS: 346 [M+ +H].

reactant | 4-anilino-5-(4-methoxy-anilino)-phthalimide | 1 mmol, 359.4 mg | N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=CC=C(C=C1)OC | C21H17N3O3
reactant | boron tribromide | 2 mmol, 186 μl | B(Br)(Br)Br | BBr3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Anilino-5-(4-hydroxy-anilino)-phthalimide | N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=CC=C(C=C1)O | C20H15N3O3
